US05219871
Preparation of 2,2-diphenyl-5-[N-{2-(1,4-benzodioxan-6-yl)ethyl}-N-methylamino]pentanamide
A mixture containing 2,2-diphenyl-5-methylaminopentanamide (0.36 g-see Preparation 1), 6-(2-bromoethyl)-1,4-benzodioxan (0.32 g), anhydrous potassium carbonate (0.75 g) and acetonitrile (20 ml) was heated under reflux for 16 hours. The mixture was partitioned between dichloromethane (50 ml) and 10% aqueous sodium carbonate (30 ml), the layers separated and the aqueous layer extracted with dichloromethane (3×20 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give an oil which was purified by column chromatography on silica eluting with dichloromethane containing methanol (0% up to 5%). The product-containing fractions were combined and concentrated in vacuo to give a foam which was further purified by column chromatography on alumina eluting with dichloromethane containing methanol (0% up to 5%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as a foam, yield 0.11 g.

reactant | 2,2-diphenyl-5-methylaminopentanamide | 0.36 g | C1(=CC=CC=C1)C(C(=O)N)(CCCNC)C1=CC=CC=C1 | C18H22N2O
reactant | 6-(2-bromoethyl)-1,4-benzodioxan | 0.32 g | BrCCC1=CC2=C(OCCO2)C=C1 | C10H11BrO2
reactant | potassium carbonate | 0.75 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2,2-diphenyl-5-[N-{2-(1,4-benzodioxan-6-yl)ethyl}-N-methylamino]pentanamide | C1(=CC=CC=C1)C(C(=O)N)(CCCN(C)CCC1=CC2=C(OCCO2)C=C1)C1=CC=CC=C1 | C28H32N2O3
